US05011947
Ethyl 3,3-bis(4-fluorophenyl)-3-hydroxy-2-(1-methylethyl)-propionate
Lithium diisopropylamide (22.2mL of 1.8M solution, 40 mmol) was added to a solution of ethyl isovalerate (5.2g, 40 mmol) in 40 mL of tetrahydrofuran at -40° C. After stirring for 0.5 hours and cooling to -70° C., 4,4'-difluorobenzophenone (4.36 g, 20 mmol) was added and the mixture stirred for 3 hours during which time the temperature was allowed to warm to -20° C. The reaction was quenched with 1N hydrochloric acid and the mixture extracted with diethyl ether. The extracts were dried with magnesium sulfate and concentrated in vacuo. The residue was crystallized from hexane to give 5.3 g of the title product; m.p. =118°-120° C.

reactant | Lithium diisopropylamide | 40 mmol, 1.8M, 22.2mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl isovalerate | 40 mmol, 5.2g | C(CC(C)C)(=O)OCC | C7H14O2
reactant | 4,4'-difluorobenzophenone | 20 mmol, 4.36 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | Ethyl 3,3-bis(4-fluorophenyl)-3-hydroxy-2-(1-methylethyl)-propionate | 5.3 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)C(C)C)(O)C1=CC=C(C=C1)F | C20H22F2O3
